US07241777B2
Sodium hydroxide (0.62 mol) was dissolved in methanol (100 ml) and the mixture was cooled till room temperature. 1-Bromo-4-nitro-benzene (0.124 mol), followed by 3-chloro-benzeneacetonitrile (0.223 mol) was added dropwise, the temperature rose till 50° C. and the mixture was stirred at room temperature for one night. The mixture was poured into water and ice, the precipitate was filtered off, washed with water and extracted with DCM and methanol. The organic layer was dried (MgSO4), filtered off and evaporated till dryness. The residue was taken up in diethylether, filtered off and dried, yielding 13.2 g (34.8%) of 5-bromo-3-(3-chlorophenyl)-2,1-benzisoxazole, mp. 163° C. (intermediate 1).

reactant | Sodium hydroxide | 0.62 mol | [OH-].[Na+]
reactant | 1-Bromo-4-nitro-benzene | 0.124 mol | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 3-chloro-benzeneacetonitrile | 0.223 mol | ClC=1C=C(C=CC1)CC#N | C8H6ClN
reactant | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 5-bromo-3-(3-chlorophenyl)-2,1-benzisoxazole | 13.2 g, 34.8% | BrC=1C=CC=2C(=C(ON2)C2=CC(=CC=C2)Cl)C1 | C13H7BrClNO
